US08426411B2
A mixture of N-((1S,3R,4S)-3-ethyl-4-(6-tosylimidazo[4,5-d]pyrrolo[2,3-b]pyridin-1(6H)-yl)cyclopentyl)cyclopropanesulfonamide (0.119 g, 0.214 mmol) and 1N aqueous NaOH (0.428 mL, 0.428 mmol) in 1,4-dioxane (2 mL) was heated at about 80° C. for about 40 min. Aqueous NaOH (1 N, 0.428 mL, 0.428 mmol) was added and the reaction mixture was heated at about 80° C. for about for 3.5 h. The reaction mixture was cooled to ambient temperature and concd under reduced pressure. The residue was dissolved in EtOAc (10 mL) and water (10 mL). The pH was adjusted to about 5 by the addition of 1 N aqueous HCl. The organic layer was separated, dried over anhydrous MgSO4, filtered and concd under reduced pressure. The residue was triturated with Et2O (5 mL) and the solvent was removed by pippette. The residue was dried under reduced pressure to give a bright yellow solid that was purified by chiral chromatography [Table 2, Method 39, Rt=16.6 min, or =negative) to give N-((1S,3R,4S)-3-ethyl-4-(imidazo[4,5-d]pyrrolo[2,3-b]pyridin-1(6H)-yl)cyclopentyl)cyclopropanesulfonamide (0.036 g, 45%): LC/MS (Table 1, Method a) Rt=1.71 min; MS m/z 374 (M+H)+.

reactant | N-((1S,3R,4S)-3-ethyl-4-(6-tosylimidazo[4,5-d]pyrrolo[2,3-b]pyridin-1(6H)-yl)cyclopentyl)cyclopropanesulfonamide | 0.214 mmol, 0.119 g | C(C)[C@@H]1C[C@@H](C[C@@H]1N1C=NC=2C1=C1C(=NC2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)NS(=O)(=O)C1CC1 | C25H29N5O4S2
reactant | NaOH | 0.428 mmol, 1N, 0.428 mL | [OH-].[Na+]
reactant | NaOH | 0.428 mmol, 1 N, 0.428 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
product | N-((1S,3R,4S)-3-ethyl-4-(imidazo[4,5-d]pyrrolo[2,3-b]pyridin-1(6H)-yl)cyclopentyl)cyclopropanesulfonamide | 0.036 g, 45% | C(C)[C@@H]1C[C@@H](C[C@@H]1N1C=NC=2C1=C1C(=NC2)NC=C1)NS(=O)(=O)C1CC1 | C18H23N5O2S
